US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (150 mg) and 4-[2-(3-bromo-phenyl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester (128 mg) instead of 4-chloropicolinic acid t-butylamide, in the same manner as Example 1-D-07, a crude product of 4-{2-[3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-phenyl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester was obtained, and further PMB group and BOC group were removed according to the above Deprotection method 2, to obtain the desired compound (D-171) as a colorless powder (4 mg, 3%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 150 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-[2-(3-bromo-phenyl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester | 128 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC1=CC(=CC=C1)Br)=O | C17H23BrN2O3
product | 4-{2-[3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-phenyl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC1=CC(=CC=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)=O | C47H55N9O6
